US07863294B2
Step 3: tert-Butyl [(1S)-1-({[2-oxo-(2-naphthyl)ethyl]amino}carbonyl)-7-oxononyl]-carbamate (L3)
A solution of (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid, EDC.HCl (1.3 eq.) and HOBt (1.3 eq.) in DMF was shaken for 5 min. To the mixture was added a solution of crude amine (L2) (1 eq.) and DIPEA (1 eq.) in DMF. The mixture was left to stir for 1 h. It was partitioned between DMF and 1 M NaOH. The DCM phase was washed sequentially with 1 M NaOH, 1 M HCl and brine, dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by chromatography on silica using 50% EtOAc/Petroleum ether as eluent to yield the product was obtained as a colourless oil. MS (ES) C27H36N2O5 requires: 468, found: 469 (M+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-8-oxodecanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC(CC)=O | C15H27NO5
reactant | EDC.HCl | 1.3 eq. | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.3 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl [(1S)-1-({[2-oxo-(2-naphthyl)ethyl]amino}carbonyl)-7-oxononyl]-carbamate | O=C(CNC(=O)[C@H](CCCCCC(CC)=O)NC(OC(C)(C)C)=O)C1=CC2=CC=CC=C2C=C1 | C27H36N2O5
